US09193728B2
Preparation of 3-(4-fluorophenyl)-6-methyl-N-(propan-2-ylidene)-3,4-dihydroquinolin-1(2H)-amine
To a stirred solution of 3-(4-fluorophenyl)-6-methyl-1-nitroso-1,2,3,4-tetrahydroquinoline (0.28 g, 0.00103 mol) in acetone (15 mL) was added saturated ammonium chloride solution (0.6 mL), and water (0.6 mL) at RT. The resulting brown colored reaction mixture was cooled to 15° C. Zinc dust (0.269 g, 0.00414 mol) was added portionwise at the same temperature, and after the addition, the reaction mixture was stirred for 1 h at RT. The reaction was monitored by TLC. After completion, solvent was removed under reduced pressure and the residue extracted with EtOAc (3×100 mL). The organic layer was dried over anhydrous sodium sulfate, solvent was removed under reduced pressure to obtain product as a brown colored oil (0.27 g, 92.7% yield).

reactant | 3-(4-fluorophenyl)-6-methyl-1-nitroso-1,2,3,4-tetrahydroquinoline | 0.00103 mol, 0.28 g | FC1=CC=C(C=C1)C1CN(C2=CC=C(C=C2C1)C)N=O | C16H15FN2O
reactant | ammonium chloride | 0.6 mL | [Cl-].[NH4+]
reactant | water | 0.6 mL | O | H2O
reactant | acetone | 15 mL | CC(=O)C | C3H6O
catalyst | Zinc | 0.00414 mol, 0.269 g | [Zn] | Zn
product | 3-(4-fluorophenyl)-6-methyl-N-(propan-2-ylidene)-3,4-dihydroquinolin-1(2H)-amine | 0.27 g, 92.7% yield | FC1=CC=C(C=C1)C1CN(C2=CC=C(C=C2C1)C)N=C(C)C | C19H21FN2
